US08476434B2
To a solution of (S)-methyl 3-(3-(dimethylamino)pyrrolidin-1-yl)benzoate (0.555 g, 2.24 mmol) in MeOH (2.5 mL) was added 1N NaOH (2.5 mL). The reaction was sealed and heated to 70 deg. C. for 1 h. The reaction was cooled to ambient temperature and was concentrated to % the volume in vacuo. Water was added, followed by 1N HCl until pH 5-6 is obtained. The resulting thick oily mixture was extracted seven times with dichloromethane. The aqueous layer was concentrated in vacuo to a solid, which was rinsed with 1:1 MeOH/MC and filtered. The filtrate was concentrated in vacuo to give (S)-3-(3′-(dimethylamino)pyrrolidin-1-yl)benzoic acid as a yellow solid. MS m/z=235 [M+1]+. Calc'd for C13H18N2O2: 234.29.

reactant | (S)-methyl 3-(3-(dimethylamino)pyrrolidin-1-yl)benzoate | 2.24 mmol, 0.555 g | CN([C@@H]1CN(CC1)C=1C=C(C(=O)OC)C=CC1)C | C14H20N2O2
reactant | NaOH | 1N, 2.5 mL | [OH-].[Na+]
solvent | MeOH | 2.5 mL | CO | CH4O
product | (S)-3-(3′-(dimethylamino)pyrrolidin-1-yl)benzoic acid | CN([C@@H]1CN(CC1)C=1C=C(C(=O)O)C=CC1)C | C13H18N2O2
